US09023846B2
A solution of 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid (2-bromo-5-nitro-pyridin-4-yl)-amide (79.8 mg, 0.183 mmol, prepared as described in the previous step) in acetic acid (1 mL) was treated with Fe powder (102 mg, 1.82 mmol). The resulting mixture was stirred at 110° C. for 1 h, cooled to room temperature, and treated with EtOAc (10 mL) and saturated NaHCO3 (10 mL). The organic layer was separated, washed with saturated NaHCO3 (10 mL), H2O (10 mL), concentrated, and the resulting residue dried in vacuo to yield 6-bromo-2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3H-imidazo[4,5-c]pyridine. 1H-NMR (400 MHz, CDCl3) δ: 10.0 (br s, 1H), 8.80 (br s, 1H), 7.60 (br s, 1H), 6.60 (m, 1H), 4.40 (s, 3H), 1.30 (s, 9H).

reactant | 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid (2-bromo-5-nitro-pyridin-4-yl)-amide | BrC1=NC=C(C(=C1)NC(=O)C=1N(N=C(C1)C(C)(C)C)C)[N+](=O)[O-] | C14H16BrN5O3
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
catalyst | Fe | 1.82 mmol, 102 mg | [Fe] | Fe
product | 6-bromo-2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3H-imidazo[4,5-c]pyridine | BrC1=CC2=C(C=N1)NC(=N2)C=2N(N=C(C2)C(C)(C)C)C | C14H16BrN5
